US04785010
1-(2-(3,4-Dimethoxyphenyl)-ethyl)-2-(phthalimido-methyl)-5-methyl-pyrrole
13.0 g (0.05 mol) of 6-phthalimido-2,5-hexanedione and 9.1 g (0.05 mol) of 2-(3,4-dimethoxyphenyl)-ethylamine are stirred in 250 ml of acetic acid at 80° C. for 7 hours. After working up as in Example 1, 7.3 g of product are obtained.

reactant | 6-phthalimido-2,5-hexanedione | 0.05 mol, 13.0 g | C1(C=2C(C(N1CC(CCC(C)=O)=O)=O)=CC=CC2)=O | C14H13NO4
reactant | 2-(3,4-dimethoxyphenyl)-ethylamine | 0.05 mol, 9.1 g | COC=1C=C(C=CC1OC)CCN | C10H15NO2
solvent | acetic acid | 250 ml | C(C)(=O)O | C2H4O2
product | 1-(2-(3,4-Dimethoxyphenyl)-ethyl)-2-(phthalimido-methyl)-5-methyl-pyrrole | COC=1C=C(C=CC1OC)CCN1C(=CC=C1C)CN1C(C=2C(C1=O)=CC=CC2)=O | C24H24N2O4
